US04760163
using isopropyl 2-chloro-4-fluoro-5-ureidobenzoate and ethyl 3-oxo-caproate there is obtained isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-propylvinyl]ureido}-benzoate,

reactant | isopropyl 2-chloro-4-fluoro-5-ureidobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)N | C11H12ClFN2O3
reactant | ethyl 3-oxo-caproate | O=C(CC(=O)OCC)CCC | C8H14O3
product | isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-propylvinyl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC(=CC(=O)OCC)CCC | C19H24ClFN2O5
